US06620600B2
Enzymatic Production of Optically Active 2-Acetylthio-3-Benzenepropanoic Acid
Ten (10.0) or 100.0 mg of racemic ethyl 2-acetylthio-3-benzenepropanoate was added to 1000 μl of 90% tert-butanol and 10% 200 mM sodium acetate buffer (pH 4.0) which contained 10 mg of immobilized lipase from Mucor meihei (Novo). The glass vessel was tightly capped and stirred for 0-40 hours at room temperature. Thirty μl aliquots were removed to ascertain conversion and optical purity. The aliquots were analyzed using an chiral HPLC column (Chiralcel AD, Daicel Chemical Industries) with a mobile phase of hexane:ethanol:trifluoroacetic acid 98:2:0.1%. The flow rate is 1 ml/minute and detection was at 230 nm. This experiment was also performed in 90% acetonitrile, acetone, and isopropanol as described above. Other racemic esters were also evaluated: butyl, isobutyl, and trifluoroethyl. The results described in Table 1 (above) were obtained.

reactant | racemic ethyl 2-acetylthio-3-benzenepropanoate | 100.0 mg | C(C)(=O)SC1=CC=CC=C1CCC(=O)OCC | C13H16O3S
reactant | sodium acetate | 200 mM, pH 4.0 | C(C)(=O)[O-].[Na+]
solvent | tert-butanol | 1000 μl | C(C)(C)(C)O | C4H10O
product | 2-Acetylthio-3-Benzenepropanoic Acid | C(C)(=O)SC1=CC=CC=C1CCC(=O)O | C11H12O3S
